US08685969B2
4. Benzyl 3-(2-amino-1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate
To a solution of benzyl 3-(1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate (1.0324 g, 1.642 mmol) and ammonium chloride (1.317 g, 24.63 mmol) in methanol (32.8 mL) and tetrahydrofuran (32.8 mL) under nitrogen was added zinc (1.610 g, 24.63 mmol), and the reaction was stirred overnight. The solution was filtered through a pad of CELITE® and rinsed with MeOH and THF. The filtrate was concentrated in vacuo, dissolved in EtOAc (100 mL) and water (40 mL). After separation of the layers, the aqueous layer was extracted with EtOAc (2×100 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated in vacuo to give the desired product (1.007 g, 1.682 mmol, 102% yield) as a dark solid.

reactant | benzyl 3-(1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate | 1.642 mmol, 1.0324 g | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C35H44N4O5Si
reactant | ammonium chloride | 24.63 mmol, 1.317 g | [Cl-].[NH4+]
solvent | methanol | 32.8 mL | CO | CH4O
solvent | tetrahydrofuran | 32.8 mL | O1CCCC1 | C4H8O
catalyst | zinc | 24.63 mmol, 1.610 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 1.682 mmol, 1.007 g, 102% yield | NCC(C1=CNC2=CC(=CC=C12)N1CC(CC1)O[Si](C)(C)C(C)(C)C)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C35H46N4O3Si
